Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:13][H:14],3.84460886846
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8],3.81256406666
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],1.1314554842
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],3.1049254858
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],2.69572236456
[C:1]#[C:2].[C:3]([C:4]#[C:5][H:6])[O:7][H:8]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[O:7][H:8],-6.67220159161
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[O:14][H:15],4.46935037711
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.42490646364
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2][H:3],8.68569639
[H:3].[O:1]=[C:2][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.98380529791
[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16],-1.8611546826
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.26440398714
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[O:1]=[O:2],2.03995990877
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[H:1],5.97884551049
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:5],1.42565219357
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1]#[C:2].[C:3]([O:4][H:5])[C:6]([O:7])([H:8])[H:9],7.157177529439999
[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.87098203
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6][H:7].[O:1]=[C:2]([O:3][C:4][H:5])[C:8]([H:9])([H:10])[H:11],7.741604405349999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[O:11],1.80599193881
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1],2.46985993116
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-0.767751042799
[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:3][H:4],2.22434422237
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.05638986218
[H:1][C:2]#[C:3][C:4]([O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.37811821858
[C:7]#[C:8][H:9].[H:1][C:2][O:3][C:4]([H:5])=[O:6]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9],-1.6057074532100002
[O:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[O:1][O:2][C:3]#[C:4],7.6344059794899986
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.76720304756
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],1.98663672968
[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][H:7]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7],-1.3645158995200002
